US06362203B1
In 5 mL of anhydrous dimethylformamide was dissolved 81 mg (0.17 mmol) of 4-(4-hydroxy-4-(2-(2-acetoxyethoxy)phenyl)piperidino)-2,2-diphenylbutyric acid. The resulting solution was stirred at room temperature for 1 hour. To the reaction mixture were added 36 mg (0.22 mmol) of carbodiimidazole, and after one hour 16 mg (0.22 mmol) of n-butylamine. After stirring at 70° C. for 24 hours, stirring was conducted for further 3 hours at 130° C., whereby the reaction was completed. Water was added to the reaction mixture, followed by extraction with ethyl acetate, washing with water and drying. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on an alumina column and then chromatography on a silica gel column, whereby 35 mg (yield: 38.9%) of 4-(4-hydroxy-4-(2-(2-hydroxyethoxy)phenyl)piperidino)-N-butyl-2,2-diphenylbutaneamide (Compound No. 73) was obtained.

reactant | 4-(4-hydroxy-4-(2-(2-acetoxyethoxy)phenyl)piperidino)-2,2-diphenylbutyric acid | 0.17 mmol, 81 mg | OC1(CCN(CC1)CCC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCOC(C)=O | C31H35NO6
reactant | carbodiimidazole | 0.22 mmol, 36 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | n-butylamine | 0.22 mmol, 16 mg | C(CCC)N | C4H11N
reactant | Water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(4-hydroxy-4-(2-(2-hydroxyethoxy)phenyl)piperidino)-N-butyl-2,2-diphenylbutaneamide | 35 mg, yield: 38.9% | OC1(CCN(CC1)CCC(C(=O)NCCCC)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCO | C33H42N2O4
